US07091357B2
To a stirred solution of (S)-nicotine (0.14 g, 0.86 mmol) in AcOH (4 ml) was added 11-bromo-undec-1-ene (0.50 g, 2.1 mmol). The mixture was heated at reflux for 3 days. AcOH was evaporated and the residue was dissolved in CHCl3. The mixture was washed with saturated aqueous NaHCO3, water and brine successively and dried. Evaporation of the solvent followed by titration with ether afforded 0.22 g (67%) of (S)-3-(1-methyl-pyrrolidin-2-yl)-1-undec-10-enyl-pyridinium bromide (NUNB-10e) as a brown oil. 1H NMR (300 Mz, CDCl3) δ 9.61 (1H, d, J=5.7 Hz), 9.22 (1H, s), 8.40 (1H, d, J=8.1 Hz), 8.08 (1H, dd, J=8.1, 6.0 Hz), 5.77 (1H, m), 4.85–5.10 (4H, m), 3.54 (1H, t, J=8.1 Hz), 3.24 (1H, m), 2.43 (2H, m), 2.23 (3H, s), 1.80–2.15 (6H, m), 1.63 (1H, m), 1.10–1.44 (12H, m); 13C NMR (75 MHz, CDCl3) δ 146.43, 144.21, 143.65, 143.09, 139.05, 128.44, 114.16, 66.97, 62.02, 56.82, 40.62, 35.99, 33.88, 32.24, 29.44×2, 29.18×2, 28.98, 29.26, 23.33.

reactant | (S)-nicotine | 0.86 mmol, 0.14 g | N1=CC=CC(=C1)[C@H]1N(C)CCC1 | C10H14N2
reactant | 11-bromo-undec-1-ene | 2.1 mmol, 0.50 g | BrCCCCCCCCCC=C | C11H21Br
solvent | AcOH | 4 ml | CC(=O)O | C2H4O2
product | (S)-3-(1-methyl-pyrrolidin-2-yl)-1-undec-10-enyl-pyridinium bromide | 0.22 g, 67% | [Br-].CN1[C@@H](CCC1)C=1C=[N+](C=CC1)CCCCCCCCCC=C | InChI=1S/C21H35N2.BrH/c1-3-4-5-6-7-8-9-10-11-17-23-18-12-14-20(19-23)21-15-13-16-22(21)2;/h3,12,14,18-19,21H,1,4-11,13,15-17H2,2H3;1H/q+1;/p-1/t21-;/m0./s1
